US04122180
A solution of 11.3 g. of 1-methylpiperidin-4-one in 120 ml. of ether is added dropwise to a stirred isoquinolyl-1-lithium solution, freshly prepared from 20.8 g. of 1-bromoisoquinoline and n-butyllithium in 400 ml. of ether, at 0°, under dry nitrogen. The mixture is stirred for 2 hours more at 0°. Water (50 ml.) and then 100 ml. of 5% hydrochloric acid are added dropwise to decompose the lithium 1-methyl-4-(1-isoquinolyl)-piperidin-4-olate formed. The mixture is worked up in the customary manner to give 1-methyl-4-(1-isoquinolyl)-piperidin-4-ol, dihydrochloride, m.p. 265°-266°.

reactant | 1-methylpiperidin-4-one | CN1CCC(CC1)=O | C6H11NO
reactant | 1-bromoisoquinoline | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 1-methyl-4-(1-isoquinolyl)-piperidin-4-olate | CN1CCC(CC1)([O-])C1=NC=CC2=CC=CC=C12.[Li+]
solvent | Water | 50 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-methyl-4-(1-isoquinolyl)-piperidin-4-ol, dihydrochloride | Cl.Cl.CN1CCC(CC1)(O)C1=NC=CC2=CC=CC=C12 | InChI=1S/C15H18N2O.2ClH/c1-17-10-7-15(18,8-11-17)14-13-5-3-2-4-12(13)6-9-16-14;;/h2-6,9,18H,7-8,10-11H2,1H3;2*1H
